US07585885B2
(R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hex-(Z)-ylidene-pyrrolidine-1-carboxylic acid tert-butyl ester
Place under argon a suspension of n-hexyltriphenylphosphonium bromide (0.420 g, 1 mmol) in 10 mL of dry THF. Add potassium tert-butoxide (0.112 g, 1 mmol). Stir the mixture for 1 h. Add a solution of (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (0.045 g, 0.1 mmol) in 5 mL of dry THF. Stir the mixture overnight. Add water, extract with diethyl ether, dry over MgSO4, concentrate under reduced pressure and purify (silica gel chromatography, eluting with ethyl ether:hexane mixtures) to give the title compound (0.04 g, 76%).

reactant | n-hexyltriphenylphosphonium bromide | 1 mmol, 0.420 g | [Br-].C(CCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 1 mmol, 0.112 g | CC(C)([O-])C.[K+]
reactant | (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.1 mmol, 0.045 g | C(C)(C)(C)OC(=O)N1[C@H](CC(C1)=O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C23H30F2N2O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hex-(Z)-ylidene-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.04 g, 76% | C(C)(C)(C)OC(=O)N1[C@H](C/C(/C1)=C/CCCCC)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C29H42F2N2O4
